US06458830B1
3,5-bis(Trifluoromethyl)styrene Oxide
A solution of 3,5-bis(trifluoromethyl)styrene (13.3 g) and m-chloroperbenzoic acid (21 g) in dichloromethane (100 ml) was stirred at room temperature for 16 hours. The resulting suspension was diluted with water (100 ml) and dichloromethane (100 ml), and the organic phase was washed further with water (2×100 ml) and saturated brine (100 ml). After drying (MgSO4) the solvent was removed in vacuo and the residue purified by chromatography on silica (eluting with isohexane followed by 10% ethyl acetate in isohexane) to provide the title compound. 1H NMR (400 MHz, CDCl3) δ 2.79 (1H, dd J 6.0 Hz and 2.7 Hz), 3.23 (1H, dd J 5.9 Hz and 4.5 Hz), 3.99 (1H, dd J 4,4 Hz and 2.7 Hz), 7,74 (2H,s), 7.82 (1H, s).

reactant | 3,5-bis(trifluoromethyl)styrene | 13.3 g | FC(C=1C=C(C=C)C=C(C1)C(F)(F)F)(F)F | C10H6F6
reactant | m-chloroperbenzoic acid | 21 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | water | 100 ml | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3,5-bis(Trifluoromethyl)styrene Oxide | FC(C=1C=C(C2CO2)C=C(C1)C(F)(F)F)(F)F | C10H6F6O
